US07973061B2
2-Aminomethyl-thiazole-4-carboxylic acid methyl ester:
2-(tert-Butoxycarbonylamino-methyl)-thiazole-4-carboxylic acid methyl ester (1.1 g, 3.9 mmol) was dissolved in methanol (15 mL). HCl in dioxane (4 M, 5 mL) was added. The mixture was stirred for 12 hours. The mixture was concentrated in vacuo, re-dissolved in methanol, and stirred with Bio-RAD AG 1-X8 resin (4 g, 20-50 mesh, hydroxide form, pre-washed with methanol and air dried) for 35 min. The mixture was filtered and the filtrate was concentrated in vacuo to afford the title compound (0.48 g, 73% over two steps): 1H NMR (400 MHz, d6-DMSO): 8.38 (s, 1H), 3.97 (s, 2H), 3.80 (s, 3H).

reactant | 2-(tert-Butoxycarbonylamino-methyl)-thiazole-4-carboxylic acid methyl ester | 3.9 mmol, 1.1 g | COC(=O)C=1N=C(SC1)CNC(=O)OC(C)(C)C | C11H16N2O4S
reactant | HCl | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
solvent | dioxane | 4 M, 5 mL | O1CCOCC1 | C4H8O2
product | 2-Aminomethyl-thiazole-4-carboxylic acid methyl ester | 0.48 g, 73% | COC(=O)C=1N=C(SC1)CN | C6H8N2O2S
